Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
transferred for eval of right wrist compartment syndrome 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ yo female with a h/o ETOH dependence and 
depression who presented to ___ on ___ 
with abdominal pain and found to have acute pancreatitis. Before 
presenting to the hospital, she had multiple days of nausea and 
vomiting which were not associated with meals. She kept drinking 
and on the day of admission to the OSH, the patient started 
wretching. She went to the hospital and was treated for acute 
pancreatitis. On ___ she developed a fever to to 101 which 
prompted concern for necrotizing pancreatitis and subsequent CT 
abd. This study was c/b extravasation of 80cc IV dye into 
patient's right wrist. The wrist became acutely swollen and 
painful. Pallor became obvious though she remained 
neurovascularly intact. Patient transferred to ___ for ortho 
hand c/s.  
.  
The patient also has a history of alcohol withdrawal. She says 
that her skin has felt "funny" in the past and she developed 
symptoms of nervousness/shaking. She tried to quit alcohol in 
the past, but has relapsed. She has had increased drinking over 
this last year. Patient reports that she has been drinking about 
1 pint of vodka daily x ___ yr. Prior to this she drank heavily 
for at least ___ yrs. She has never had pancreatitis previously. 
Many of her family members are alcoholics. Prior to admission at 
___ she had abdominal pain and was vomitting for a few days. 
She had not eaten in at least 4 days but was drinking ETOH right 
up until her admission.  
.  
In the ED, VS: T99.6 HR 102 BP134/80 ___ on RA. In ED she was 
evaluated by ortho hand who felt she has borderline compartment 
syndrome and recommended strict elevation and volar splint which 
they placed. R hand noted to be swollen and pale up to the 
mid-forearm though radial pulse intact. She was also given 1L NS 
and 1mg IV dilaudid.  
.  
Currently, she is complaining of abdominal pain and pain from 
her right wrist. She also notes that she is feeling tremulous. 
Her last drink of ETOH was on ___. She denies any other 
constitutional symptoms other than constipation.  
.  
ROS: Denies fever, chills, night sweats, headache, vision 
changes, rhinorrhea, congestion, sore throat, cough, shortness 
of breath, chest pain, diarrhea, melena, hematochezia, dysuria, 
hematuria.  

 
Past Medical History:
-Depression  
-ETOH dependence  
-Marijuana Abuse  
-Tobacco Abuse  
-s/p 2 c-sections  
-s/p internal anal sphincterotomy  

 
Social History:
___
Family History:
Alcoholism, no history of gallstones 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vitals - T:99.8 BP:112/77 HR:92 RR:20 02 sat:97RA  
GENERAL: Pleasant, well appearing female in NAD  
HEENT: Normocephalic, atraumatic. No conjunctival pallor. No 
scleral icterus. PERRLA/EOMI. MMM. OP clear. Neck Supple, No LAD 
 
CARDIAC: Tachycardic, regular. Normal S1, S2. No murmurs, rubs 
or ___.  
LUNGS: decreased BS at bases, good air movement biaterally. No 
crackles, rhonchi or wheezes  
ABDOMEN: NABS. Soft,+ epigastric tenderness, no distension  
EXTREMITIES: Right Wrist: +radial pulse, able to flex fingers 
and flex/abduct thumb. +swelling of hand and forearm, +pallor of 
hand up to mid-forearm.  
PULSES: 2+ dorsalis pedis/ posterior tibial pulses.  
SKIN: No rashes/lesions, ecchymoses.  

 
Pertinent Results:
OSH Admission Labs:  
Lipase>600  
Lactic Acid 5.8  
K 2.9  
CO2 14  
AG 29  
AST 204  
ALT 35  
Alk Phos 117  
Amylase 220  
Serum ETOH: 59  
.  
MICROBIOLOGY:  
OSH Records:  
Urine Cx ___: neg  
Blood Cx ___: Pending  
.  
STUDIES:  
OSH CT Abd/Pelv ___:  
--peripancreatic fat stranding and fluid suggestive of acute 
pancreatitis  
--marked fatty infiltrate of liver  
--bilat pleural eff R>L  
--2.5 mm non-obstructing calc in r kidney  
___ records

EKG: Sinus rhythm with baseline artifact. P-R interval is at the 
lower limits of normal. Compared to the previous tracing of 
___ the rate is slower. P-R interval continues at the lower 
limits of normal. Non-specific inferior ST segment flattening is 
unchanged, as is the ST segment flattening in leads V5-V6. 
Tracing is likely within normal limits.

___
___

Admission laboratories:

___ WBC-8.5 RBC-4.07* Hgb-12.9 Hct-39.3 MCV-96 MCH-31.6 
MCHC-32.8 RDW-12.9 Plt ___
___ Neuts-75.0* Lymphs-16.2* Monos-6.3 Eos-2.0 Baso-0.6
___ ___ PTT-26.1 ___
___ 09:10PM BLOOD ALT-18 AST-76* LD(LDH)-251* AlkPhos-121* 
TotBili-3.1*

___  Glucose-67* UreaN-3* Creat-0.5 Na-131* K-4.1 Cl-96 
HCO3-20* AnGap-19

___ 09:10PM BLOOD HBsAg-NEGATIVE HBsAb-NEGATIVE
___ 09:10PM BLOOD HCV Ab-NEGATIVE
 
Brief Hospital Course:
Summary: This is a ___ yo female with h/o ETOH dependence who 
presented to ___ and found to have acute pancreatitis 
whose course c/b CT contrast infiltration into R wrist who was 
transferred to ___ for management of possible wrist 
compartment syndrome.
.
# Alcoholic Pancreatitis: The patient presented with severe 
epigastric pain, an inability to tolerate PO, and abnormal LFTs. 
She was found to have hyperbilirubinemia, transaminitis, 
hyponatremia and an anion gap metabolic acidosis. She was given 
IV fluids and IV morphine for pain control. Over the course of 
her stay, the patient started to tolerate a regular diet without 
nausea and vomiting. Her pain was better controlled and her LFTs 
trended to normal ranges. The patient was discharged with 16 
pills of Percocet and told to followup at her scheduled 
appointment or sooner with her primary care doctor if she 
requires more pain control. 

# ETOH Dependence/Withdrawl: The patient reportedly had been 
drinking heavily over the past year. During her stay, she 
developed increased anxiety, tremulousness, fever, and 
tachycardia. She was started on a CIWA scale and required PO 
Valium to help her. She also reports vivid nightmares. Social 
work consulted with the patient and suggested resources for her 
to explore as an outpatient. The patient has a desire to quit 
alcohol, but has too many life stressors. She was given Valium 
20 mg PO on discharge.

# Right Wrist Swelling: Orthopedics hand surgery evaluated the 
patient and thought that her swelling was possibly due to 
compartment syndrome. They recommended against surgical 
intervention and suggested keeping the arm elevated and 
controlling her pain. With elevation, the pain subsided. The 
hand always remained neurovascularly intact and had normal 
pulses/strength/sensation on discharge. Ortho hand said to 
followup PRN in their clinic.

Normocytic anemia: The patient continued to have a normocytic 
anemia. It was stable throughout her stay. If it persists, it 
will likely need to be assessed as an outpatient. On discharge 
her Hct was 34.8. 

Depression/anxiety: The patient has poor social support and 
psychiatric issues and uses alcohol to cope with her problems. 
Social work spoke with the patient and provided outpatient 
resources. She was given a three day supply of Ativan 1 mg BID: 
PRN anxiety.

Uninsured: The patient reports having no insurance and said it's 
difficult to fill prescriptions and see doctors. ___ social 
worker here linked the patient to a state-sponsored health 
insurance plan.

 
Medications on Admission:
MEDICATIONS HOME:  
none  
.  
MEDICATIONS ON TRANSFER:  
NS @ 100cc/hr  
Morphine IV 2mg Q4  
Protonix 40mg IV daily  
Nicotine Patch 14 mg daily  
Heparin SC 5000 units TID  
Ertapenem 1gm Q24 (given at 0900 on ___  
Prochloperazine 10mg IV Q4  
Zofran 4mg IC Q8  

 
Discharge Medications:
1. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
every ___ hours as needed for pain: This medication will make 
you drowsy. You should not drive or operate machinery on this 
medication.
Disp:*15 Tablet(s)* Refills:*0*
2. Ativan 1 mg Tablet Sig: One (1) Tablet PO BID:PRN as needed 
for anxiety.
Disp:*6 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
1. Alcoholic Pancreatitis
2. Alcohol withdrawal
3. Compartment syndrome

Secondary:
Alcohol dependence

 
Discharge Condition:
Stable. On room air. Pain controlled. 

 
Discharge Instructions:
You were transferred to the hospital after contrast leaked into 
your right arm. You were evaluated by a hand specialist who 
recommended to elevate your arm and give you adequate pain 
control. You had swelling which resolved. You have normal pulses 
and nerve function in this hand. 
.
You also had pancreatitis caused by alcohol. You should decrease 
or stop your alcohol intake. You were also given pain 
medications to help with the pain.
.
You also had alcohol withdrawal symptoms and given valium. Your 
symptoms improved during the hospitalization.
.
You should come back to the hospital if you have increased 
nausea, vomiting, fevers, chills or if your hand swelling 
increases.
 
Followup Instructions:
___